US06329392B1
1-(3,4,5-Triethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-(3,4,5-triethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (0.31 g, 0.55 mmol), diisopropylethylamine (0.14 g, 1.1 mmol), chlorobenzene (5 mL), and 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine (0.28 g, 0.83 mmol) Heat to 120° C. After 4 hours, partition the reaction mixture between ethyl acetate and water. Extract 2 times with water and a 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 3/1 ethyl acetate/hexane and then 10/1/0.1 ethyl acetate/methanol/concentrated aqueous ammonia to give the title compound: Rf=0.60 (silica gel, 10/1/0.1 ethyl acetate/methanol/concentrated aqueous ammonia); mp; 155-160° C.

reactant | 1-(3,4,5-triethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 0.55 mmol, 0.31 g | C(C)OC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)OC)OC)C=C(C1OCC)OCC | C28H39NO8S
reactant | diisopropylethylamine | 1.1 mmol, 0.14 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chlorobenzene | 5 mL | ClC1=CC=CC=C1 | C6H5Cl
reactant | 4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidine | 0.83 mmol, 0.28 g | FC1=CC=C(CN2C(=NC3=C2C=CC=C3)C(=O)C3CCNCC3)C=C1 | C20H20FN3O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(3,4,5-Triethoxy-benzoyl)-3-[2-[4-[1-(4-fluoro-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | C(C)OC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)OC)OC)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)F)C=CC=C3)C=C(C1OCC)OCC | C47H55FN4O7
